US07795262B2
Step 4. Preparation of N-cyclobutyl-6-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl)-5,6,7,8-tetrahydro-1,6-naphthyridine-2-carboxamide
A mixture of {2-[(cyclobutylamino)carbonyl]-7,8-dihydro-1,6-naphthyridin-6(5H)-yl}acetic acid hydrochloride (37 mg, 0.11 mmol), 1-cyclobutylpiperazine (19 mg, 0.133 mmol), BOP (59 mg, 0.133 mmol) and TEA (0.075 ml, 0.532 mmol) in DCM (5 ml) is stirred at rt overnight. The solvent is removed in vacuo and the residue is partitioned between water (10 mL) and EtOAc (10 mL). The layers are separated and the aqueous layer is extracted with EtOAc (10 ml). The combined extracts are washed with brine (10 mL), dried and evaporated. The residue is purified by PTLC to give the title compound as a light yellow oil. MS (M+1): 412.4; 1H NMR (δ, CDCl3): 8.11 (d, 1H), 7.94 (d, 1H), 7.43 (d, 1H), 4.53-4.61 (m, 1H), 3.75 (s, 2H), 3.58-3.66 (m, 4H), 3.45 (t, 2H), 3.40 (s, 2H), 3.04 (t, 2H), 2.92 (t, 2H), 2.63-2.76 (m, 1H), 2.36-2.46 (m, 2H), 2.25-2.32 (m, 6H), 1.63-2.06 (m, 6H).

reactant | {2-[(cyclobutylamino)carbonyl]-7,8-dihydro-1,6-naphthyridin-6(5H)-yl}acetic acid hydrochloride | 0.11 mmol, 37 mg | Cl.C1(CCC1)NC(=O)C1=NC=2CCN(CC2C=C1)CC(=O)O
reactant | 1-cyclobutylpiperazine | 0.133 mmol, 19 mg | C1(CCC1)N1CCNCC1 | C8H16N2
reactant | BOP | 0.133 mmol, 59 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | N-cyclobutyl-6-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl)-5,6,7,8-tetrahydro-1,6-naphthyridine-2-carboxamide | C1(CCC1)NC(=O)C1=NC=2CCN(CC2C=C1)CC(=O)N1CCN(CC1)C1CCC1 | C23H33N5O2
